US06130187
Preparation of 3-(4-chloro-6-fluoro-2-vinylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 412)
50 ml of dioxane and 0.5 ml of water were added to 1.0 g (2.6 mmol) of 3-(4-chloro-6-fluoro-2-formylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil, 0.94 g (2.6 mmol) of methyltriphenylphosphonium bromide and 0.43 g (3.1 mmol) of potassium carbonate, followed by stirring for 2 hours under heating and refluxing. After completion of the reaction, the reaction solution was poured into water and adjusted to pH 3 with an aqueous citric acid solution and then, extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.51 g (yield: 51%) of the desired product as yellow crystals. Melting point: 108-109° C.

reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | 3-(4-chloro-6-fluoro-2-formylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 2.6 mmol, 1.0 g | ClC1=CC(=C(C2=C1C=C(O2)C=O)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C15H7ClF4N2O4
reactant | potassium carbonate | 3.1 mmol, 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | methyltriphenylphosphonium bromide | 2.6 mmol, 0.94 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 3-(4-chloro-6-fluoro-2-vinylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 0.51 g, yield: 51% | ClC1=CC(=C(C2=C1C=C(O2)C=C)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C16H9ClF4N2O3
